US03970670
The starting material is prepared as follows: To the mixture of 13.6 g of methyl 2-bromo-8-cyano-octanoate, 11.6 g of 2,2-diethoxy-ethylmercaptan and 150 ml of methylene chloride, 5.56 g of triethylamine are added dropwise while stirring. After overnight-stirring at room temperature the mixture is evaporated, the residue triturated with diethyl ether, washed with water, dried and evaporated, to yield the methyl 2-(2,2-diethoxyethylmercapto)-8-cyano-octanoate showing NMR bands aft 4.58, 3.71 and 2.75 ppm.

reactant | methyl 2-bromo-8-cyano-octanoate | 13.6 g | BrC(C(=O)OC)CCCCCCC#N | C10H16BrNO2
reactant | 2,2-diethoxy-ethylmercaptan | 11.6 g | C(C)OC(CS)OCC | C6H14O2S
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 5.56 g | C(C)N(CC)CC | C6H15N
product | methyl 2-(2,2-diethoxyethylmercapto)-8-cyano-octanoate | C(C)OC(CSC(C(=O)OC)CCCCCCC#N)OCC | C16H29NO4S
